US05284837
To a solution of (-)-dimethyl-2-(2-amino-6-chloropurin-9-ylmethyl)succinate (enantiomeric excess 85%; 19.9 mg, 0.0607 mmol), dissolved in tert. butanol (2.0 ml) at 40° C., was added lithiumborohydride (30 mg, 1.38 mmol) in portions with stirring. After 1 hr at ambient temperature, water (0.3 ml) was added slowly and stirring continued over night. Inorganic salts were filtered, washed carefully with tert. butanol and the solution was evaporated to dryness. Preparative thin-layer chromatography (PSC-Fertigplatten, Merck) with chloroform+methanol (5+1) as mobile phase afforded 16.5 mg (theoretical yield) of (-)-2-(2-amino-6-chloropurin-9-ylmethyl)-1,4-butanediol. [α]D20 °-5.20°, [α]54620 -5.92° (c 0.625, ethanol). TLC on silica (chloroform+methanol 5+1): Rf 0.40, identical to that of the racemate.

reactant | (-)-dimethyl-2-(2-amino-6-chloropurin-9-ylmethyl)succinate | 0.0607 mmol, 19.9 mg | COC(C(CC(=O)OC)CN1C2=NC(=NC(=C2N=C1)Cl)N)=O | C12H14ClN5O4
reactant | lithiumborohydride | 1.38 mmol, 30 mg | [BH4-].[Li+]
reactant | water | 0.3 ml | O | H2O
solvent | tert. butanol | 2.0 ml | C(C)(C)(C)O | C4H10O
product | (-)-2-(2-amino-6-chloropurin-9-ylmethyl)-1,4-butanediol | 16.5 mg | NC1=NC(=C2N=CN(C2=N1)CC(CO)CCO)Cl | C10H14ClN5O2
